US05256675
To a mixture of 2-amino-5-(4-nitrophenylthio)thiazole (2.6 g) and pyridine (1 g) in N,N-dimethylformamide (30 ml) was added dropwise the propionylchloride (1.1 g) at 5° C. under ice cooling with stirring. The mixture was stirred at 5° C. for 3.5 hours. The reaction mixture was poured into ice water and the mixture was adjusted to pH 8 using aqueous sodium bicarbonate. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-propionylamino-5-(4-nitrophenylthio)thiazole (2.5 g, yield: 78.7%). mp: 227°-229° C. (dec.)

reactant | 2-amino-5-(4-nitrophenylthio)thiazole | 2.6 g | NC=1SC(=CN1)SC1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O2S2
reactant | pyridine | 1 g | N1=CC=CC=C1 | C5H5N
reactant | propionylchloride | 1.1 g | C(CC)(=O)Cl | C3H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-propionylamino-5-(4-nitrophenylthio)thiazole | 2.5 g, yield: 78.7% | C(CC)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)[N+](=O)[O-] | C12H11N3O3S2
